US07439232B2
4-(4-Ethylbenzyl)-2H-pyridazin-3-one
To a mixture of 4-(4-ethylbenzyl)-3-methoxy-pyridazine (2.11 g, 9.24 mmol) and chloroform (20 ml), trimethylsilyliodo (1.45 ml, 10.2 mmol) was added and this reaction mixture was stirred at 60° C. for 25 hours. After cooling to room temperature, the reaction mixture was diluted with methanol and concentrated. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to give the titled compound (1.36 g, 69%) as a yellow powder.

reactant | 4-(4-ethylbenzyl)-3-methoxy-pyridazine | 9.24 mmol, 2.11 g | C(C)C1=CC=C(CC2=C(N=NC=C2)OC)C=C1 | C14H16N2O
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 4-(4-Ethylbenzyl)-2H-pyridazin-3-one | 1.36 g, 69% | C(C)C1=CC=C(CC=2C(NN=CC2)=O)C=C1 | C13H14N2O
